US09340508B2
A 10 L reactor equipped with mechanical stirrer was loaded with triphenylphosphine (340.0 g, 1.296 mol) and THF (2 L) and the suspension was cooled with an ice bath. The stirred suspension was then slowly added with DIAD (264 g, 1.296 mol) over 30 minutes. After stirring for 30 min at 0° C., the stirred suspension was added dropwise with a solution of 4-hydroxy-3-methoxyacetofenone (180 g, 1.08 mol) and DIPEA (210 g, 1.62 mol) in THF (1500 mL). The suspension was left under stirring for 45 min at 0° C., then added dropwise with a solution of 1-benzyloxycarbonylamino-1-hydroxymethylcyclopropane (China Gateway) (240 g, 1.08 mol) in THF (1500 mL). After 1 h, LC-MS analysis of a sample from the reaction mixture showed the complete disappearance of 1-benzyloxycarbonylamino-1-hydroxymethylcyclopropane. The reaction mixture was evaporated and the crude product was recrystallized with EtOH 95% (4000 mL) to give 1-[(4-acetyl-2-methoxyphenoxy)methyl]-N-benzyloxycarbonyl-1-aminocyclopropane (214 g, yield: 53.5%) as a white solid.

reactant | triphenylphosphine | 1.296 mol, 340.0 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | DIAD | 1.296 mol, 264 g | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
reactant | DIPEA | 1.62 mol, 210 g | CCN(C(C)C)C(C)C | C8H19N
reactant | 1-benzyloxycarbonylamino-1-hydroxymethylcyclopropane | 1.08 mol, 240 g | C(C1=CC=CC=C1)OC(=O)NC1(CC1)CO | C12H15NO3
reactant | THF | 1500 mL | C1CCOC1 | C4H8O
reactant | THF | 1500 mL | C1CCOC1 | C4H8O
reactant | THF | 2 L | C1CCOC1 | C4H8O
product | 1-[(4-acetyl-2-methoxyphenoxy)methyl]-N-benzyloxycarbonyl-1-aminocyclopropane | 214 g, yield: 53.5% | C(C)(=O)C1=CC(=C(OCC2(CC2)NC(=O)OCC2=CC=CC=C2)C=C1)OC | C21H23NO5
